US06951855B2
A solution of 7-(4-methoxyphenoxy)-2H-1,4-benzoxazin-3(4H)-one (120 mg; 0.44 mmol) in CH2Cl2 (1 ml) was treated with BBr3 (332 mg; 1.33 mmol). The mixture was stirred at room temperature for 3 hours. After evaporation to dryness the residue was taken up in EtOAc and water. The organic phase was washed with brine and dried over MgSO4. The residue (110 mg) was triturated with EtOAc, filtered and dried to give 7-(4-hydroxyphenoxy)-2H-1,4-benzoxazin-3(4H)-one as a biege solid (85 mg), Melting point 250-251° C.

reactant | 7-(4-methoxyphenoxy)-2H-1,4-benzoxazin-3(4H)-one | 0.44 mmol, 120 mg | COC1=CC=C(OC2=CC3=C(NC(CO3)=O)C=C2)C=C1 | C15H13NO4
reactant | BBr3 | 1.33 mmol, 332 mg | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-hydroxyphenoxy)-2H-1,4-benzoxazin-3(4H)-one | Yield: 75% | OC1=CC=C(OC2=CC3=C(NC(CO3)=O)C=C2)C=C1 | C14H11NO4
